US08975400B2
7-((4-(3,4-difluorophenoxy)-3,5-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimida-zo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using (4-(3,4-difluorophenoxy)-3,5-difluorophenyl)methanol (0.073 g, 0.269 mmol) in THF)(4 mL), sodium hydride (0.016 g, 0.404 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (0.050 g, 0.269 mmol).

reactant | (4-(3,4-difluorophenoxy)-3,5-difluorophenyl)methanol | 0.269 mmol, 0.073 g | FC=1C=C(OC2=C(C=C(C=C2F)CO)F)C=CC1F | C13H8F4O2
reactant | sodium hydride | 0.404 mmol, 0.016 g | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.269 mmol, 0.050 g | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | C1CCOC1 | C4H8O
product | 7-((4-(3,4-difluorophenoxy)-3,5-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimida-zo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C)C=C2F)F)C=CC1F | C20H15F4N3O3
